US05204357
b) 2-(R,S)-Benzyl-3-cyclohexylsulfonylpropionic acid
3.2 g of ethyl 2-(R,S)-benzyl-3-cyclohexylsulfonylpropionate are refluxed in 50 ml of 5 N HCl for 8 hours. The mixture is extracted with dichloromethane, and the extract is dried with Na2SO4. The concentration results in 1.1 g of the title compound as an oil.

reactant | ethyl 2-(R,S)-benzyl-3-cyclohexylsulfonylpropionate | 3.2 g | C(C1=CC=CC=C1)C(C(=O)OCC)CS(=O)(=O)C1CCCCC1 | C18H26O4S
solvent | HCl | 5 N, 50 ml | Cl | ClH
product | 2-(R,S)-Benzyl-3-cyclohexylsulfonylpropionic acid | 1.1 g | C(C1=CC=CC=C1)C(C(=O)O)CS(=O)(=O)C1CCCCC1 | C16H22O4S
